US06184242B2
10% Palladium on carbon (0.5 g) was added to a solution of 4-benzoyl-benzoic acid (11.31 g, 50 mmol) in ethanol (250 mL) and 70% perchloric acid (10 mL). The suspension was hydrogenated under 40 psi at room temperature for 8 hours. The catalyst was removed by filtration and the filtrate made neutral with aqueous sodium bicarbonate. Solvents were evaporated, and the residue was partitioned into ethyl acetate and dilute aqueous potassium hydroxide. The aqueous phase was acidified with hydrochloric acid. The precipitated acid was filtered, washed, and dried to give 4-benzyl-benzoic acid (10.74 g,−100%).

reactant | 4-benzoyl-benzoic acid | 50 mmol, 11.31 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | perchloric acid | 10 mL | Cl(=O)(=O)(=O)O | ClHO4
product | 4-benzyl-benzoic acid | 10.74 g, -100% | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
